US06376719B1
350 g (6 mol) of magnesium hydroxide was supplied to the kneader used in Comparative Example 1, and stirred. Thereafter, 1,443 g [14.4 mol, magnesium hydroxide/acetylacetone=1/2.4 (molar ratio)] of acetylacetone was added dropwise into the kneader over 3 hours. The reaction temperature was between 35 and 64° C. After completion of the dropping, at a temperature of 64 to 65° C., the reaction mixture was stirred and mixed for aging for 4 hours until the reaction was complete. The resulting product was warmed under a flow of nitrogen gas. When the temperature was elevated up to 65° C., the product was subjected to the drying step, and dried at 104 to 125° C. for 12 hours until the product attained a moisture content of 0.17% by weight. The dried product was cooled to give 1,342 g of white magnesium acetylacetonate [yield 99.3 mol % (magnesium hydroxide basis), purity 98.9% by weight].

reactant | magnesium hydroxide | 6 mol, 350 g | [OH-].[Mg+2].[OH-]
reactant | acetylacetone | 14.4 mol, 1,443 g | C(C)(=O)CC(C)=O | C5H8O2
product | magnesium acetylacetonate | 1,342 g | CC(=CC(=O)C)[O-].CC(=CC(=O)C)[O-].[Mg+2] | InChI=1S/2C5H8O2.Mg/c2*1-4(6)3-5(2)7;/h2*3,6H,1-2H3;/q;;+2/p-2
